US07786165B2
3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoic acid
3-[2-Fluoro-4-({[4′-(methoxymethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]propanoic acid (1.0 g, 2.29 mmol) was dissolved in ethyl acetate (2 mL) and diethyl ether (4 mL). To this solution was added methanesulfonic acid (0.16 mL, 2.47 mmol) and the solution was concentrated under reduced pressure. Aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate, concentrated under reduced pressure. The residue was purified by preparative HPLC to give the title compound (85 mg, yield 9%) as a colorless oil.

reactant | 3-[2-Fluoro-4-({[4′-(methoxymethoxy)-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)phenyl]propanoic acid | 2.29 mmol, 1.0 g | FC1=C(C=CC(=C1)NCC=1C=C(C=CC1)C1=C(C=C(C=C1C)OCOC)C)CCC(=O)O | C26H28FNO4
reactant | methanesulfonic acid | 2.47 mmol, 0.16 mL | CS(=O)(=O)O | CH4O3S
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoic acid | 85 mg, yield 9% | FC1=C(C=CC(=C1)NCC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)O | C24H24FNO3
